US03957782
b. 6-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonitrile
18.9 g. of 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]-pyrazine-5-carbonitrile (0.1 mol.) are added to a solution of 2.3 g. of sodium (0.1 mol.) in 500 ml. of absolute ethanol and the mixture is stirred for 30 minutes at room temperature. Then the alcohol is distilled off in vacuo and the sodium salt is dissolved in dry dimethylformamide. Then 23.5 g. of ethyl iodide (0.15 mol.) are added and the solution is heated in an autoclave at 120° for 5 hours. After the dimethylformamide is removed in vacuo, the residual 6-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonitrile (19.1 g.) is recrystallized from hexane, yield 17 g. (78%), m.p. 73°-74°.

reactant | 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]-pyrazine-5-carbonitrile | 0.1 mol | C(C)N1N=CC=2C1=NC(=C(N2)C#N)O | C8H7N5O
reactant | sodium | 0.1 mol | [Na] | Na
reactant | ethyl iodide | 0.15 mol | C(C)I | C2H5I
solvent | ethanol | C(C)O | C2H6O
product | 6-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonitrile | C(C)OC1=C(N=C2C(=N1)N(N=C2)CC)C#N | C10H11N5O
